US06576787B1
A mixture of 1 mmol of α,α-dimethyl-2-endotricyclo[5.2.1.02,6]decanemethanol obtained according to Example 9, 1.5 mmol of acrylic chloride, 1.5 mmol of triethylamine, and 3 ml of THF was stirred at 60° C. for 3 hours. The resulting reaction mixture was subjected to column chromatography on a silica gel to yield 4a-(1-acryloyloxy-1-methylethyl)-endotricyclo[5.2.1.02,6]decane represented by the following formula (yield: 52%).

reactant | acrylic chloride | 1.5 mmol | C(C=C)(=O)Cl | C3H3ClO
reactant | triethylamine | 1.5 mmol | C(C)N(CC)CC | C6H15N
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | decane | yield: 52% | CCCCCCCCCC | C10H22
